Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
ABD Pain/Fever
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with PMHx notable for depression and recent admission for 
admission to ___ for gall stone pancreatitis two 
weeks ago s/p ERCP at ___ on ___ with remainder of 
hospitalization at ___ who presents with 
leukocytosis and fever. He reports that he was discharged from 
___ on ___. Per records it appears 
that his WBC had trended up to 14 at time of discharge. He 
reports that he felt fine with mild amount of bloating and 
cramping. He reports it was worse with large meals so he took to 
having small meals more regular. He reports that he then went to 
his follow up appointment with his PCP on ___ who measured 
his fever to 101.6 and his WBC was elevated. He was referred to 
___ where he was then 
transferred to ___ for further evaluation. 

In the ED at ___ he was noted to have stable vital signs. 
RUQ showed: 
IMPRESSION:  
1. Mild wall edema in a mostly decompressed gallbladder. 
Cholelithiasis with specifically a 5 mm stone at the neck. 
2.  Echogenic liver consistent with steatosis. Other forms of 
liver disease and more advanced liver disease including 
steatohepatitis or significant hepatic fibrosis/cirrhosis cannot 
be excluded on this study. 
3.  Mild prominence of the CBD measuring up to 9 mm but no 
intrahepatic biliary duct dilatation.  This may be related to 
the acute pancreatitis. 

His WBC was elevated. Hew received unasyn for several doses. In 
the ED, patient reports slight nausea, constipation w/ gas 
passage but no abdominal pain, vomiting or fever. Seen by 
surgery who declined CCY at this time (will benefit from 
interval CCY per consult). Admitted to medicine. 
 
Past Medical History:
Depression
Gallstone pancreatitis
 
Social History:
___
Family History:
Reports HLD in numerous family members. No history of CAD. 
 
Physical Exam:
Discharge Physical Exam:
Vitals: 98.7 PO 140/ 85 84 16 95 RA 
Gen: NAD, lying in bed, pleasant
Eyes: EOMI, sclera anicteric
ENT: MMM, OP clear
CV: RRR, no murmur
PULM: normal effort, no accessory muscle use, lungs CTA ___.
GI: soft,, NT, non-distended, BS+
GU: No foley catheter in place 
MSK: No significant kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice.
Neuro: AAOx3. Fluent speech, no facial droop.
Psych: Full range of affect

 
Pertinent Results:
Admission Labs: 
___ 09:20PM BLOOD WBC-21.8* RBC-4.26* Hgb-12.5* Hct-37.4* 
MCV-88 MCH-29.3 MCHC-33.4 RDW-12.9 RDWSD-41.3 Plt ___
___ 03:00PM BLOOD WBC-20.8* RBC-3.90* Hgb-11.6* Hct-34.2* 
MCV-88 MCH-29.7 MCHC-33.9 RDW-12.4 RDWSD-40.1 Plt ___
___ 09:20PM BLOOD Glucose-98 UreaN-12 Creat-0.8 Na-135 
K-3.5 Cl-98 HCO3-24 AnGap-17
___ 07:25AM BLOOD Glucose-108* UreaN-11 Creat-0.8 Na-137 
K-3.8 Cl-100 HCO3-24 AnGap-17
___ 09:20PM BLOOD ALT-116* AST-68* AlkPhos-107 TotBili-1.1 
DirBili-0.4* IndBili-0.7
___ 07:25AM BLOOD ALT-104* AST-67* AlkPhos-89 TotBili-0.8
___ 09:20PM BLOOD Albumin-2.9*
___ 07:25AM BLOOD Albumin-2.7*
___ 09:20PM BLOOD Lipase-214*
___ 07:20AM BLOOD WBC-15.8* RBC-3.62* Hgb-10.8* Hct-32.2* 
MCV-89 MCH-29.8 MCHC-33.5 RDW-12.4 RDWSD-40.7 Plt ___
___ 07:20AM BLOOD Glucose-98 UreaN-7 Creat-0.8 Na-138 K-3.8 
Cl-99 HCO3-27 AnGap-16
___ 07:20AM BLOOD ALT-180* AST-122* AlkPhos-87 TotBili-0.6
Imaging: 
RUQUS:
IMPRESSION:  
1. Mild wall edema in a mostly decompressed gallbladder. 
Cholelithiasis with specifically a 5 mm stone at the neck.  
2.  Echogenic liver consistent with steatosis. Other forms of 
liver disease and more advanced liver disease including 
steatohepatitis or significant hepatic fibrosis/cirrhosis cannot 
be excluded on this study. 
3.  Mild prominence of the CBD measuring up to 9 mm but no 
intrahepatic 
biliary duct dilatation.  This may be related to the acute 
pancreatitis. 

 
Brief Hospital Course:
A/P:
___ with PMHx notable for depression and recent admission for 
admission to ___ for gall stone pancreatitis two 
weeks ago s/p ERCP at ___ on ___ with remainder of 
hospitalization at ___ who presents with 
leukocytosis and fever. 

# Sepsis from
# Cholangitis 
# Given Fever to 101.6 at his PCP's office, elevated WBC to 20, 
HR >90, and mild elevation in LFTs, patient was treated for 
cholangitis on arrival. Patient was subsequently afebrile 
throughout hospital course and with normal HR post IVF and 
Unasyn. His WBC improved to 15 on discharge and he was 
tolerating regular diet without abdominal pain, nausea, or 
vomiting. ERCP and Acute Surgical team's were consulted given 
recent ERCP on ___ and concern for cholecystitis vs. post-ERCP 
or gallstone pancreatitis. On Ultrasound he has mild gallbladder 
wall edema but it is mostly decompressed. No pain in the RUQ on 
serial exams. Unfortunately, patient was not cultured prior to 
antibiotics at OSH therefore no way to guide therapy for 
cholangitis. Therefore patient was discharged to complete 10 day 
course of Cipro/flagyl through ___. ALT 180, AST 122, Alk 87, 
bili .60 on discharge. 
-Continue Cipro/flagyl through ___
-Strict return precautions given and education about risk of 
cholangitis
-Blood cultures pending finalization will call patient if 
anything remarkable (___)
-Patient will f/u with ___ PCP ___ on ___ for repeat 
LFTs, CBC, Chemistry
-patient requested PRN Zofran for nausea and was given 
prescription 

# Acute Pancreatitis, gallstone: Acute panc on CT and elevated 
lipase meets criteria. Tolerating small frequent meals. LFTs 
trending down. Tolerating full diet on discharge. 

# Depression:
- Continued home sertraline on discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 100 mg PO DAILY 

 
Discharge Medications:
 

1.  Ciprofloxacin HCl 500 mg PO Q12H cholangitis 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth Every 12 hours 
Disp #*17 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H cholangitis 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth Every 8 
hours Disp #*26 Tablet Refills:*0 
3.  Ondansetron 4 mg PO Q8H:PRN nausea/vomiting 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth every 8 hours Disp 
#*10 Tablet Refills:*0 
4.  Sertraline 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cholangitis
Sepsis
Fever
Leukocytosis

 
Discharge Condition:
Discharged in good condition
Mental status- alert, oriented, fully conversational. 
Fully Ambulatory without impairment 

 
Discharge Instructions:
Dear Mr. ___, you were transferred to this hospital because of 
fever and an elevated White blood cell count (leukocytosis). 
Because you recently had a biliary procedure (ERCP) and stent 
placement on (___) there was concern your pancreas was inflamed 
and you may have had a biliary tract infection (cholangitis). We 
treated with broad antibiotics and your fever resolved. 
Unfortunately, your blood was not cultured at your previous 
hospital prior to antibiotics therefore the yield of your blood 
cultures at this hospital will be low. You should continue your 
oral antibiotics (Ciprofloxacin/Flagyl) for an additional 8 days 
after you leave the hospital (last day ___. You should 
follow-up with Dr. ___ in general surgery clinic to plan the 
surgery to remove your gallbladder (cholecystectomy) in ___ 
weeks. The number of the clinic is ___. Patient 
should avoid alcohol for at least 4 weeks until he has 
established normal LFTs and discussed with PCP.  
 
Followup Instructions:
___